US08304412B2
4-(Chloromethyl)-2-(4-fluoro-3-methylphenyl)-1,3-oxazole
2.00 g (12.80 mmol) of 4-fluoro-3-methylbenzamide and 1.79 g (14.08 mmol) of 1,3-dichloroacetone are stirred at 130° C. for 2 days, resulting in the formation of a melt. The mixture is then cooled to RT, 3.0 ml of conc. sulfuric acid are added carefully at this temperature and the mixture is stirred for 15 min. The suspension obtained is poured into 20 ml of ice-water and stirred at RT overnight. The precipitate formed is filtered off and dried in a vacuum drying cabinet at 40° C. overnight.

reactant | 4-fluoro-3-methylbenzamide | 12.80 mmol, 2.00 g | FC1=C(C=C(C(=O)N)C=C1)C | C8H8FNO
reactant | 1,3-dichloroacetone | 14.08 mmol, 1.79 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(Chloromethyl)-2-(4-fluoro-3-methylphenyl)-1,3-oxazole | ClCC=1N=C(OC1)C1=CC(=C(C=C1)F)C | C11H9ClFNO
